US06589977B1
To a solution of N-methyl-2,3-bis(5-methyl-1H-indol-3-yl)maleimide (150 mg, 0.41 mmol) in DMF (3 mL) was added a small amount of 10% palladium-carbon, and the whole was stirred at room temperature for 1 day under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=2:1) to obtain 1-methyl-3,4-bis(5-methyl-1H-indol-3-yl)-2,5-dioxopyrrolodine (109 mg, 72.4%) as a mixture of two isomers (A:B=3:1) as pale red solids.

reactant | N-methyl-2,3-bis(5-methyl-1H-indol-3-yl)maleimide | 0.41 mmol, 150 mg | CN1C(C(=C(C1=O)C1=CNC2=CC=C(C=C12)C)C1=CNC2=CC=C(C=C12)C)=O | C23H19N3O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium-carbon | [C].[Pd]
product | 1-methyl-3,4-bis(5-methyl-1H-indol-3-yl)-2,5-dioxopyrrolodine | 109 mg, 72.4% | CN1C(C(C(C1=O)C1=CNC2=CC=C(C=C12)C)C1=CNC2=CC=C(C=C12)C)=O | C23H21N3O2
